US07820662B2
4-(8-Amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl)-N-ethylpiperidine-1-carboxamide was synthesized using the same procedure as 1-{4-[8-amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]piperidin-1-yl}ethanone except ethylisocyanate was used instead of acetic anhydride; yellow powder; MS (ES+): m/z 492.10 (70) [MH+], 493.11 (45) [MH+2], 211.41 (100) [MH-280]; HPLC: tR=2.08 min (polar—5 min/openlynx).

reactant | 1-{4-[8-amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]piperidin-1-yl}ethanone | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CCN(CC2)C(C)=O | C28H26N6O
reactant | ethylisocyanate | C(C)N=C=O | C3H5NO
product | 4-(8-Amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl)-N-ethylpiperidine-1-carboxamide | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CCN(CC2)C(=O)NCC | C29H29N7O
